US06482852B2
(b) 2-Cyclohexylmethoxy-6,7,8,9-tetrahydro-benzocyclohepten-5-one
A mixture of 2-cyclohexylmethoxy-6,7,8,9-tetrahydro-5H-benzocycloheptene (0.50 g, 1.94 mmol), potassium persulfate (1.57 g, 5.82 mmol), copper(II) sulfate pentahydrate (0.48 g, 1.94 mmol) and CH3CN/H2O (1:1, 13 mL) were heated at reflux for 45 min. After cooling the mixture was diluted with water and extracted with EtOAc. The combined extracts were washed with water, dried over magnesium sulfate, concentrated, and chomatographed over silica gel (20% EtOAc/hexane) to a white solid (0.46 g, 87%). MS [M+H]+ 273, m.p. 86-88° C.

reactant | 2-cyclohexylmethoxy-6,7,8,9-tetrahydro-5H-benzocycloheptene | 1.94 mmol, 0.50 g | C1(CCCCC1)COC=1C=CC2=C(CCCCC2)C1 | C18H26O
reactant | potassium persulfate | 5.82 mmol, 1.57 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | CH3CN H2O | 13 mL | CC#N.O
solvent | water | O | H2O
catalyst | copper(II) sulfate pentahydrate | 1.94 mmol, 0.48 g | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | 2-Cyclohexylmethoxy-6,7,8,9-tetrahydro-benzocyclohepten-5-one | C1(CCCCC1)COC=1C=CC2=C(CCCCC2=O)C1 | C18H24O2
